US09212168B2
(c) (4-Bromo-2-chloro-5-trifluoromethoxy-phenyl)-methanol
To a solution of (2-chloro-5-trifluoromethoxy-phenyl)-methanol (16.3 g, 71.94 mmol) in sulfuric acid (200 mL) and water (60 mL) was added bromine (12.65 g, 79.13 mmol), followed by silver sulfate (12.34 g, 39.57 mmol). The reaction mixture was stirred at RT for 1 h, poured onto ice, and then extracted with EtOAc (3×100 mL). The organic layers were combined, dried over Na2SO4 and concentrated to afford crude product, which was purified by flash chromatography (0-10% EtOAc in petroleum ether) to give the title intermediate (6.0 g, 27% yield). (m/z): [M−OH]+ calcd for C8H5BrClF3O2 286.91; 288.91. found 289.0.

reactant | (2-chloro-5-trifluoromethoxy-phenyl)-methanol | 71.94 mmol, 16.3 g | ClC1=C(C=C(C=C1)OC(F)(F)F)CO | C8H6ClF3O2
reactant | bromine | 79.13 mmol, 12.65 g | BrBr | Br2
solvent | sulfuric acid | 200 mL | S(O)(O)(=O)=O | H2O4S
solvent | water | 60 mL | O | H2O
catalyst | silver sulfate | 39.57 mmol, 12.34 g | S(=O)(=O)([O-])[O-].[Ag+2]
product | (4-Bromo-2-chloro-5-trifluoromethoxy-phenyl)-methanol | 6.0 g, 27% yield | BrC1=CC(=C(C=C1OC(F)(F)F)CO)Cl | C8H5BrClF3O2
